US07053082B1
(±)-7-acetyl-7,8-dihydro-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-8-carboxylic acid-amide
3.68 g (10.0 millimoles) of (±)-7,8-dihydro-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-8-carboxylic acid-amide are suspended in 30 ml of acetic anhydride and stirred at room temperature for 48 hours. The reaction mixture is cooled with icecold water, the precipitated product is filtered and washed with 20 ml of diethyl ether. Thus 3.32 g of the desired compound are obtained, yield 81%, mp.: 157–161° C.

reactant | (±)-7,8-dihydro-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-8-carboxylic acid-amide | 10.0 millimoles, 3.68 g | CC=1C=C(C=CC1[N+](=O)[O-])C1=NNC(CC2=C1C=C1C(=C2)OCO1)C(=O)N | C18H16N4O5
reactant | water | O | H2O
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (±)-7-acetyl-7,8-dihydro-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-8-carboxylic acid-amide | 3.32 g, yield 81% | C(C)(=O)N1N=C(C2=C(CC1C(=O)N)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C20H18N4O6
